US05594021
Sodium hydride (100 mg, 5 mmole) was added to a stirred solution of 3,4-methylenedioxyphenol (0.607 g, 4.5 mmol) in DMF (dry, 5 ml) at 0° C. under a nitrogen atmosphere with stirring. The reaction mixture was permitted to attain room temp and stirring continued for 1 hr. The reaction mixture was cooled to 0° C. and N-[(2-bromomethyl)thiophene-3-sulfonyl]pyrrole was added. Stirring was continued at ambient temperature for 16 hr. The reaction mixture was diluted with water (100 ml), extracted with ethyl acetate (2×50 ml) and washed with 1N NaOH (2×25 ml) to remove phenol derivative. The mixture was dried over MgSO4 and concentrated resulting in N-{2-[(3,4-methylenedioxy)phenoxymethyl]thiophene-3-sulfonyl}pyrrole, which was recrystallized using hexane/EtOAc (1.0 g, 92% yield).

reactant | Sodium hydride | 5 mmole, 100 mg | [H-].[Na+]
reactant | 3,4-methylenedioxyphenol | 4.5 mmol, 0.607 g | C1OC=2C=C(C=CC2O1)O | C7H6O3
reactant | N-[(2-bromomethyl)thiophene-3-sulfonyl]pyrrole | C1=CN(C=C1)S(=O)(=O)C2=C(SC=C2)CBr | C9H8BrNO2S2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | hexane EtOAc | 1.0 g, 92% yield | CCCCCC.CCOC(=O)C | InChI=1S/C6H14.C4H8O2/c1-3-5-6-4-2;1-3-6-4(2)5/h3-6H2,1-2H3;3H2,1-2H3
